US05409956
Preparation of [2-(phenylsulfonylaminomethyl)indan-5-yl]acetic acid:
844 mg (2.26 mmol) of ethyl[2-(phenylsulfonylaminomethyl)-indan-5-yl]acetate was dissolved in 3 ml of methanol, to which was added 5 ml of 1N sodium hydroxide and stirred for 1 hour at room temperature. Methanol was removed and the aqueous phase was washed with chloroform, and added with 1N hydrochloric acid for making the system acidic. The precipitates were extracted with ethyl acetate, dried and condensed. The residue was recrystallized from ethyl acetate to obtain 679 mg crystals. Yield: 87%

reactant | ethyl[2-(phenylsulfonylaminomethyl)-indan-5-yl]acetate | 2.26 mmol, 844 mg | C(C)OC(CC=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=CC=C1)=O | C20H23NO4S
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | [2-(phenylsulfonylaminomethyl)indan-5-yl]acetic acid | 679 mg, Yield: 87% | C1(=CC=CC=C1)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)CC(=O)O | C18H19NO4S
